US07488739B2
Diethyl pyridin-3-ylphosphonate was dissolved in EtOH-acetic acid, to which platinum oxide was added, for stirring under 3.4 kgf/cm2 hydrogen for 120 hours, to obtain diethyl piperidin-3-ylphosphonate.

reactant | Diethyl pyridin-3-ylphosphonate | N1=CC(=CC=C1)P(OCC)(OCC)=O | C9H14NO3P
reactant | hydrogen | [H][H] | H2
solvent | EtOH acetic acid | CCO.C(C)(=O)O
solvent | platinum oxide | [Pt]=O
product | diethyl piperidin-3-ylphosphonate | N1CC(CCC1)P(OCC)(OCC)=O | C9H20NO3P
